US04988686
3-diphenylmethoxy-1-(2-dimethylaminoethyl)-6-formyl-4pyridone
To a solution of 1.160 g of 3-diphenylmethoxy-1-[2(dimethylamino)ethyl]-6-hydroxymethyl-4-pyridone is added 6.0 g of manganese dioxide at room temperature, and the mixture is stirred for 3 hours. Insolubles are removed by filtration, and the filtrate was subjected to flash column chromatography on 50 g of Wako-Gel C-300 (manufactured by Wako Pure Chemical Industries, Ltd.) with an eluent of chloroform-methanol (10:1) to perform separation and purification. The title compound is obtained as colorless crystal in a yield of 0.744 g.

reactant | 3-diphenylmethoxy-1-[2(dimethylamino)ethyl]-6-hydroxymethyl-4-pyridone | 1.160 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CCN(C)C)C1=CC=CC=C1 | C23H26N2O3
catalyst | manganese dioxide | 6.0 g | [O-2].[O-2].[Mn+4]
product | 3-diphenylmethoxy-1-(2-dimethylaminoethyl)-6-formyl-4pyridone | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)C=O)CCN(C)C)C1=CC=CC=C1 | C23H24N2O3
